US05401858
A solution of 12.7 g (12.2 mmol) 1,3-O-dicarbotrichloroethoxy-4-O-dicarbotrichloroethoxycaffeoyl quinide in 870 ml THF is treated for 3 days with 9 ml concentrated HCl. After cooling to 0° C., the reaction mixture is adjusted to pH 2 by addition of solid sodium bicarbonate and is then saturated with NaCl. The organic phase is then separated and the aqueous phase is extracted with 2×20 ml ethyl acetate. After the combined organic phases have been dried over sodium sulfate, the solvents are evaporated. Treatment of the residue with a solvent mixture of THF and hexane in a ratio by volume of 1:20 gives 12.7 g 1,3-O-dicarbotrichloroethoxy- 4-O-dicarbotrichloroethoxycaffeoyl quinic acid in the form of an amorphous white powder (yield 99%) .

reactant | quinide | 12.2 mmol, 12.7 g | C1[C@@H]([C@@H]([C@@H]2C[C@]1(C(=O)O2)O)O)O | C7H10O5
reactant | HCl | 9 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | THF | 870 ml | C1CCOC1 | C4H8O
product | quinic acid | 12.7 g | C1[C@@](C[C@H]([C@@H]([C@@H]1O)O)O)(O)C(=O)O | C7H12O6
